US08378108B2
To a suspension of 4-chloro-N-(6-(hydrazinecarbonyl)pyridin-2-yl)picolinamide (1.00 g, 3.43 mmol) in toluene (0.20 M) was added a mixture of N,N-dimethylforinamide.N,N-dimethylacetamide (1.14 mL, 8.56 mmol), cyclopropylamine (873 μL, 13.7 mmol), and acetic acid (194 μL, 3.43 mmol). The reaction mixture was heated to 150° C. for 30 minutes in a microwave reactor. The reaction product was concentrated under reduced pressure, and the residue was suspended in acetonitrile/diethyl ether (15 mL, 1:1 ratio), filtered, and the solid washed with acetonitrile/diethylether (2×10 mL). The filtrate was concentrated and the solid thus obtained was purified as above. The combined solids were dried under reduced pressure to afford 842 mg (72% yield) of 4-chloro-N-(6-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)pyridin-2-yl)picolinamide as a white solid.

reactant | 4-chloro-N-(6-(hydrazinecarbonyl)pyridin-2-yl)picolinamide | 3.43 mmol, 1.00 g | ClC1=CC(=NC=C1)C(=O)NC1=NC(=CC=C1)C(=O)NN | C12H10ClN5O2
reactant | N,N-dimethylacetamide | 8.56 mmol, 1.14 mL | CN(C(C)=O)C | C4H9NO
reactant | cyclopropylamine | 13.7 mmol, 873 μL | C1(CC1)N | C3H7N
reactant | acetic acid | 3.43 mmol, 194 μL | C(C)(=O)O | C2H4O2
solvent | toluene | 0.20 M | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-N-(6-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)pyridin-2-yl)picolinamide | 842 mg, 72% yield | ClC1=CC(=NC=C1)C(=O)NC1=NC(=CC=C1)C1=NN=CN1C1CC1 | C16H13ClN6O
